US06388104B1
27.2 g (0.4 mol) of sodium methoxide are initially introduced into 300 ml of DMF at approx. 40° C. and stirred. A mixture of 26 g (0.2 mol) of ethyl acetoacetate and 43 g (0.2 mol) of 1,4-dibromobutane is slowly added dropwise to this suspension and the reaction mixture is stirred for approx. 24 hours at this temperature. Towards the end of the reaction, the temperature may optionally be raised to 90° C. for a further hour. The precipitated sodium bromide is filtered out, the DMF removed and the residue fractionated. 29 g (78%) of 1-acetyl-1-cyclopentanecarboxylic acid ethyl ester are obtained. Bp.: 136° C. (1500 Pa); IR: 1745 cm−1 (C═O, ester), 1713 cm−1 (C═O, ketone); MS: m/e=142 (M−42), 114, 101, 96, 86, 67, 43.

reactant | sodium methoxide | 0.4 mol, 27.2 g | C[O-].[Na+]
reactant | ethyl acetoacetate | 0.2 mol, 26 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1,4-dibromobutane | 0.2 mol, 43 g | BrCCCCBr | C4H8Br2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 1-acetyl-1-cyclopentanecarboxylic acid ethyl ester | 29 g, 78% | C(C)OC(=O)C1(CCCC1)C(C)=O | C10H16O3
